US04101548
4-Amino-6,7-dimethoxy-2-[4-(1,2,3-thiadiazole 5-carbonyl)piperazin-1-yl]quinazoline Hydrochloride
Reaction of 1,2,3-thiadiazole-5-carbonyl chloride and 4-amino-6,7-dimethoxy-2-(1-piperzinyl)quinazoline according to the procedure of Example 1 provided the title compound having a melting point of 295°-297° C. after crystallization from aqueous ethanol.

reactant | 1,2,3-thiadiazole-5-carbonyl chloride | S1N=NC=C1C(=O)Cl | C3HClN2OS
reactant | 4-amino-6,7-dimethoxy-2-(1-piperzinyl)quinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
product | 4-Amino-6,7-dimethoxy-2-[4-(1,2,3-thiadiazole 5-carbonyl)piperazin-1-yl]quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1=CN=NS1 | InChI=1S/C17H19N7O3S.ClH/c1-26-12-7-10-11(8-13(12)27-2)20-17(21-15(10)18)24-5-3-23(4-6-24)16(25)14-9-19-22-28-14;/h7-9H,3-6H2,1-2H3,(H2,18,20,21);1H
